US05304644
A solution of 2.0 g of 8-chloro-10,11-dihydrodibenz [b,f][1,4]oxazepine, 0.77 g of sodium hydroxide, and 5% palladium on carbon in 50 mL of ethanol (3A) was shaken at 60 psi hydrogen in a Parr hydrogenator at room temperature for 3.67 hours. The catalyst was filtered from the reaction and the solution was evaporated under vacuum. The residue was taken up in chloroform, washed with water and brine, dried over magnesium sulfate, and evaporated under vacuum to yield 1.16 g (68.1%) of 10,11-dihydrodibenz[b,f][1,4]oxazepine as a tan solid. Mp: 74°-76° C.

reactant | 8-chloro-10,11-dihydrodibenz [b,f][1,4]oxazepine | 2.0 g | ClC1=CC2=C(OC3=C(CN2)C=CC=C3)C=C1 | C13H10ClNO
reactant | sodium hydroxide | 0.77 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 10,11-dihydrodibenz[b,f][1,4]oxazepine | 1.16 g, 68.1% | C1=CC=CC2=C1CNC1=C(O2)C=CC=C1 | C13H11NO
